* C:\Users\Server\Dropbox\Y8-Sp\new-ee457\hw-n-proj\Project\8-bit-SR-piso\Testbench.asc
V1 CLK 0 PULSE(0 3.3 0 1n 1n 300n 600n 5)
XX1 I N001 CLK CLK_n tg params: size = 5
XX2 CLK CLK_n inv params: size = 1
V2 I 0 3.3
R1 N001 0 31k
C1 N001 0 1p

* block symbol definitions
.subckt tg I O CLK CLK_n
M1 I CLK O O NM l=0.35u w={size*0.35u}
M2 O CLK_n I I PM l=0.35u w={3.4*size*0.35u}
.include ee457_035.lib
.param size=1
.ends tg

.subckt inv I O
M1 O I 0 0 NM l=0.35u w={0.35u*size}
M2 O I vdd vdd PM l=0.35u w={3.4*size*0.35u}
V1 vdd 0 3.3
.include ee457_035.lib
.param size=1
.ends inv

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Server\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 3u
.backanno
.end
