* C:\Users\Server\Dropbox\Y8-Sp\new-ee457\hw-n-proj\Project\8-bit-SR-piso\Testbench.asc
V1 CLK 0 PULSE(0 3.3 0 1n 1n 10n 20n 1)
XX1 CLK CK vdd 0 tg params: size = 1
V2 vdd 0 3.3
XX2 CLK CK_n inv params: size = {sz}
M1 vdd CK 0 0 NM W=1u L=0.35u
M2 vdd CK 0 0 NM W=1u L=0.35u
M3 vdd CK_n 0 0 NM W=1u L=0.35u
M4 vdd CK_n 0 0 NM W=1u L=0.35u
M5 0 CK_n vdd vdd PM W=1u L=0.35u
M6 0 CK_n vdd vdd PM W=1u L=0.35u
M7 0 CK vdd vdd PM W=1u L=0.35u
M8 0 CK vdd vdd PM W=1u L=0.35u

* block symbol definitions
.subckt tg I O CLK CLK_n
M1 I CLK O O NM l=0.35u w={size*0.35u}
M2 O CLK_n I I PM l=0.35u w={3.4*size*0.35u}
.include ee457_035.lib
.param size=1
.ends tg

.subckt inv I O
M1 O I 0 0 NM l=0.35u w={0.35u*size}
M2 O I vdd vdd PM l=0.35u w={3.4*size*0.35u}
V1 vdd 0 3.3
.include ee457_035.lib
.param size=1
.ends inv

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Server\Documents\LTspiceXVII\lib\cmp\standard.mos
.include ee457_035.lib
.tran 20n
.step param sz list 1 2 3 10
.backanno
.end
