* C:\Users\Server\Dropbox\Y8-Sp\new-ee457\hw-n-proj\Project\8-bit-SR-piso\Testbench.asc
V1 CLK 0 PULSE(0 3.3 0 1n 1n 10n 20n 1)
XX1 CLK CK vdd 0 tg params: size = {sz}
V2 vdd 0 3.3
XX2 CLK CK_n inv params: size = {sz}
XX3 CK CK_n test-dff-clk-load params: size = 50
XX4 CLK NC_01 test-dff-clk-load params: size = 50

* block symbol definitions
.subckt tg I O CLK CLK_n
M1 I CLK O 0 NM l=0.35u w={size*0.35u}
M2 O CLK_n I vdd PM l=0.35u w={3.7*size*0.35u}
V1 vdd 0 3.3
.include ee457_035.lib
.param size=1
.ends tg

.subckt inv I O
M1 O I 0 0 NM l=0.35u w={0.35u*size}
M2 O I vdd vdd PM l=0.35u w={3.7*size*0.35u}
V1 vdd 0 3.3
.include ee457_035.lib
.param size=1
.ends inv

.subckt test-dff-clk-load CK CK_n
M1 vdd CK_n 0 0 NM l=0.35u w={size*0.35u}
M2 vdd CK_n 0 0 NM l=0.35u w={size*0.35u}
M3 0 CK_n vdd vdd PM l=0.35u w={3.4*size*0.35u}
M4 0 CK_n vdd vdd PM l=0.35u w={3.4*size*0.35u}
M5 vdd CK 0 0 NM l=0.35u w={size*0.35u}
M6 vdd CK 0 0 NM l=0.35u w={size*0.35u}
M7 0 CK vdd vdd PM l=0.35u w={3.4*size*0.35u}
M8 0 CK vdd vdd PM l=0.35u w={3.4*size*0.35u}
V1 vdd 0 3.3
.include ee457_035.lib
.param size = 1
.ends test-dff-clk-load

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Server\Documents\LTspiceXVII\lib\cmp\standard.mos
.include ee457_035.lib
.tran 20n
.step param sz list 1 5 100
.backanno
.end
